US04649150
2-Methyl-4-(4-amino-phenyl)-1H-imidazole
A solution of 2-methyl-4-(4-nitro-phenyl)-1H-imidazole (28 g) in methanol (210 ml) was hydrogenated in the presence of 10% palladium-on-charcoal (1.35 g) at atmospheric pressure and at room temperature. After the calculated amount of hydrogen had been taken up, the catalyst was filtered off and the solution was evaporated to dryness to give 23.2 g of the title compound as a spongy solid. Using the above procedure, and starting from the appropriate nitrophenyl derivative, the following aminophenyl derivatives were also prepared:

reactant | 2-methyl-4-(4-nitro-phenyl)-1H-imidazole | 28 g | CC=1NC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 210 ml | CO | CH4O
catalyst | palladium-on-charcoal | 1.35 g | [Pd] | Pd
product | 2-Methyl-4-(4-amino-phenyl)-1H-imidazole | 23.2 g | CC=1NC=C(N1)C1=CC=C(C=C1)N | C10H11N3
